US04910202
A solution of 2.56 g (12.3 mmol) of 2-hydroxy 4-methoxy-5-(1,1-dimethylethyl)benzaldehyde and 2.19 g (12.3 mmol) of N-bromosuccinimide in 20 ml of methylene chloride was stirred for 6 hours. Water (50 ml) was added. The organic phase was dried and evaporated. The residue was chromatographed on silica gel (36 g) using 2:98 (v/v) ether/hexane as eluent. There was obtained 2.45 g (8.53 mmol, 69%) of 2-hydroxy-3-bromo-4-methoxy-(1,1-dimethylethyl)benzaldehyde as white crystals after crystallization from cyclohexane; mp 123°-124° C.

reactant | 2-hydroxy 4-methoxy-5-(1,1-dimethylethyl)benzaldehyde | 12.3 mmol, 2.56 g | OC1=C(C=O)C=C(C(=C1)OC)C(C)(C)C | C12H16O3
reactant | N-bromosuccinimide | 12.3 mmol, 2.19 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | 50 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-3-bromo-4-methoxy-(1,1-dimethylethyl)benzaldehyde | 8.53 mmol, 2.45 g, 69% | OC1=C(C=O)C=C(C(=C1Br)OC)C(C)(C)C | C12H15BrO3
